US06294538B1
A solution of (RS)-lactonitrile (378 9, 5.32 mol) in ethyl ether (1.46 L) and ethanol (0.34 L) was saturated with hydrogen chloride gas at 0° C.-5° C. for 0.5 h and kept at 5° C. for 60 h. The solid was filtered off and washed twice with ethyl ether to give 2-hydroxypropionimidic acid ethyl ester hydrochloride as a solid (815 g, 99%); mp, 165-168° C.; 1H NMR (DMSO-d6, 300 MHz) δ1.38 (t, 3H), 4.49(q, 1H), 6.55-7.11 (bs, 1H).

reactant | (RS)-lactonitrile | 5.32 mol | C(C(O)C)#N | C3H5NO
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl ether | 1.46 L | C(C)OCC | C4H10O
solvent | ethanol | 0.34 L | C(C)O | C2H6O
product | 2-hydroxypropionimidic acid ethyl ester hydrochloride | 815 g, 99% | Cl.C(C)OC(C(C)O)=N | InChI=1S/C5H11NO2.ClH/c1-3-8-5(6)4(2)7;/h4,6-7H,3H2,1-2H3;1H
